** SNSPDLibrary **

* This library contains subckts and
* parameters needed to model an
* snspd. Specifically there are two
* nanowire models that simulate the
* superconducting nanowire's physical
* response to a photon.
*
* The nanowireBCF (Basic Curve Fit)
* model uses a group of switches
* parallel to a variable resitor
* to trace the i-v and pulse
* curves of a nanowire.
*
* The nanowireDynTherm (Dynamic Thermal)
* model uses sets of ancillary circuits to
* calculate and simulate the behavior
* of a nanowire. Each subcircuit is
* embedded into an snspd subcircuit that
* uses current pulses to simulate the
* arivals of a photons.

*************************************
* nanowireBCF                       *
*   basic curve-fitting-based model *
*   of a nanowire                   *
* gate: 1 uA in 2 ps pulse=photon   *
*   only connect to current source  *
* drain: one terminal of channel    *
* source: other terminal of channel *
*************************************

.subckt nanowireBCF gate gatereturn drain source
+Lind=100n Isw={Jc*width*thickness*C}
+width=100n thickness=4n sheetRes=400
+Tc=10.5 Tsub=2 Jc=50G C=1
  *Jc at T=Tsub in units of amps/m2
  *sheetRes has units of ohms/sq
  *Tc is critical temp and has units of K
  *Tsub is substrate temp and has units of K
  *C is constrition factor

*Dimensions
.PARAM length={width*Lind/inductivity}
.PARAM squares={length/width}

*Thermal Parameters
.PARAM kappa = 0.108
  * thermal conductivity
  * in W/m K
.PARAM heatCapacity = 4400
  * heat capacity per unit
  * volume in J/m^3 K
.PARAM hc = 50k
  * hc is the thermal conductivity
  * of the surface, units of W/m^2 K

*Electrical/Superconducting Parameters
.PARAM inductivity = {1.38p*sheetRes/Tc/tanh(1.74*sqrt(Tc/Tsub-1))}
  * units of H/square
.PARAM  minSquares = 2
  * # of squares for min resistance
.PARAM maxSquares = 10
  * units of ohms/square
.PARAM psi={sheetRes*(Jc*thickness)**2 /(hc*(Tc-Tsub))}
  * psi is the Stekly parameter.
.PARAM f={sqrt(2/psi)}
  * quantify hysteresis of Ihs vs Isw
.PARAM Ihs={f*Isw}
  * hotspot current level

*Unitless Parameters
.PARAM gain={10}
  * factor photon signal gets multiplied by
.PARAM epsilon = {0.01}
  * provides margins for switching

* Maximum impedance of inductor, helps with solver convergence
.PARAM Ind_Z_max = 1e6
* ohms set to a few orders of magnitude above the largest expected
* impedance as calculated by Lind_x*2*pi*f_max where f_max = 0.31/t_rise_min
* is the maximum frequency in Hz based on the fastest dynamics of the
* circuit in seconds
* For normal nTron inductors (e.g. 200 squares of 20pH/sq), a rise time of
* 10ps gives about 1kohm max impedance, so 1e6 is acceptable

** MAIN CIRCUIT **

* channel Inductor
L1 drain N1 Flux=({Lind}/(2.0*cos(0.67*asin(C*x/{Isw}))-1))*x Rser = 1e-10 Rpar = {Ind_Z_max}

* photodetection-event current sensor
V1 N1 N2 0

* photodetection event current
B2 N2 N1 I=IF(I(V1)>0,gain*I(R3),-gain*I(R3))

* hotspot plateau current source
B1 N2 source I=IF(v(n2,source)>0,Ihs,-Ihs)

* hotspot limiting resistor
R2 N2 source {maxSquares*sheetRes}

* gate input resistor
R3 gate gatereturn 1

* current sense switch, detects photon arrival
* actuates in the i>0 range
W1 N2 N3 V1 currentSwitch OFF
* actuates in the i<0 range
W2 N3 N4 V1 negCurrentSwitch ON
.PARAM hiIthresh = {Isw}
.PARAM loIthresh = {Isw *(f+epsilon)}
* model goes normal above hiIthresh and resets below loIThresh
.model currentSwitch CSW(Ron=1e9 Roff=.01 It={(hiIthresh+loIthresh)/2} Ih={(hiIthresh-loIthresh)/2})
* model goes normal below -hiIthresh and resets above -loIthresh
.model negCurrentSwitch CSW(Ron=.01 Roff=1e9 It={-(hiIthresh+loIthresh)/2} Ih={(hiIthresh-loIthresh)/2})

* voltage sense switches
* actuates in the v>0 range
S1 N4 N5 N2 source voltageSwitch OFF
* actuates in the v<0 range
S2 N5 source N2 source negVoltageSwitch ON

.PARAM Vthresh={minSquares*sheetRes*Ihs}
.model voltageSwitch SW(Ron=1e9 Roff=.01 Vt={Vthresh} Vh=0)
.model negVoltageSwitch SW(Ron=.01 Roff=1e9 Vt={-Vthresh} Vh=0)
.ends nanowireBCF

*************************************
* nanowireDynamic                   *
*   full dynamic model of nanowire  *
* gate: 1 uA in 2 ps pulse=photon   *
*   only connect to current source  *
* drain: one terminal of channel    *
* source: other terminal of channel *
*************************************

.subckt nanowireDynamic gate gatereturn drain
+ source params: length=1u width=100n thickness=4n
+ sheetRes=400 Tc=10.5 Tsub=2 Jd_0K=50G C=1
  *Jd_0K at Tsub=0K has units of amps/m2
  *sheetRes has units of ohms/sq
  *Tc is critical temp and has units of K
  *Tsub is substrate temp and has units of K
  *C is constrition factor

*Dimensions
.PARAM Lind={inductivity*length/width}
.PARAM squares={length/width}

*Thermal Parameters
.PARAM kappa = 0.108
  * thermal conductivity W/m K
.PARAM heatCapacity = 4400
  * heat capacity J/m^3 K
.PARAM hc = 50k
  * thermal conductivity of surface W/m^2 K

*add temperature dependence for Jc
.PARAM Jc={C*Jd_0K*(1-(Tsub/Tc)**2)**(3/2)}

*Electrical/Superconducting Parameters
.PARAM inductivity = {1.38p*sheetRes/Tc/tanh(1.74*sqrt(Tc/Tsub-1))}
  * H/square
.PARAM Rnorm = {sheetRes*squares}
  * units of ohms/square
.PARAM psi={sheetRes*(Jc*thickness)**2/
+(hc*(Tc-Tsub))}
  * psi is the Stekly parameter.
.PARAM vo={sqrt(hc*kappa/thickness)/
+heatCapacity}
  * vo is characteristic velocity

.PARAM Isw={Jc*width*thickness}
*.PARAM Ihs={sqrt(2/max(psi,2))*Isw}
.PARAM Ihs={sqrt(2/psi)*Isw}
.PARAM rho={sheetRes*thickness}

*Unitless Parameters
.PARAM gain={10}
  * factor photon signal gets multiplied by
.PARAM delta={0.01}
  * a small offset value for avoiding
  * singularity in hotspot velocity
  * If delta is made too large, cooling will be suppressed and the
  * nanowire will be more likely to latch (in simulation).
  * It's important to note that delta is only for convenience and
  * assuring convergence of the model, and does not correspond to any
  * physical parameter or process in the device

* Maximum impedance of inductor, helps with solver convergence
.PARAM Ind_Z_max = 1e6
* ohms set to a few orders of magnitude above the largest expected
* impedance as calculated by Lind_x*2*pi*f_max where f_max = 0.31/t_rise_min
* is the maximum frequency in Hz based on the fastest dynamics of the
* circuit in seconds
* For normal nTron inductors (e.g. 200 squares of 20pH/sq), a rise time of
* 10ps gives about 1kohm max impedance, so 1e6 is acceptable

** MAIN CIRCUIT **

*channel inductor
Lc drain N_center Flux=({Lind}/(2.0*cos(0.67*
+asin(C*x/{Isw}))-1))*x Rser = 1e-12 Rpar = {Ind_Z_max}

* hotspot resistor (changed i(L1) to i(B1) on 2020-7-9)
B_hs N_center source V=IF(v(N_res)>0, v(N_res)*i(B_hs), 0)
  * v(N_res) is resistance of hotspot

*photon arrival sense resistor
R_gate gate gatereturn 1

** S/C SENSE SUBCIRCUIT **

**Superconducting to Resistive Transition

*dependent source used to store state
R_state N_state 0 1k
R_sc_n N_sc_n 0 1k
.machine 1p
.state sc 0
.state norm 1
.rule sc norm abs(I(Lc)) - {Isw} + {gain}*abs(i(R_gate)) > 0
.rule norm sc abs(I(Lc)) - {Ihs} < 0
.output (N_state) state
.output (N_sc_n) abs(I(Lc)) - {Isw} - {gain}*abs(i(R_gate)) > 0
.endmachine
* v(N_state) is 0 if wire s/c, 1 if not

** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **

B_hs_int N_res 0 V=sdt(if(v(N_state) & v(N_res)<{Rnorm},({2*sheetres*vo})/({width})*
+(({psi}*(i(Lc)/{Isw})**2-2)
+/((sqrt((({psi}*(i(Lc)/{Isw})**2-1)+abs({psi}*
+(i(Lc)/{Isw})**2-1))/2)+{delta}))),0)
+, 0, V(N_state)<0.5)

.ends nanowireDynamic


*************************************
* nanowireDynTherm
* Full dynamic model of a superconducting nanowire
* gate:   input (1 µA in 2 ps pulse = photon)
    connect only to current source
* drain: one terminal of channel
* source: other terminal of channel
*************************************
.subckt nanowireDynTherm gate gatereturn drain source
+ params: Lind=200n width=100n thickness=4n
+ sheetRes=300 Tb=2 Tc=10 Jc=50G Gv=1e-9 C=0.5
* Jc_0K       : critical current density at 0K (A/m^2)
* sheetRes : sheet resistance (ohms/sq)
* Gv       : thermal boundary conductance (W/K^n)
* Tc       : critical temperature (K)
* Tb       : bath temperature (K)
* C        : constriction factor

*--- Dimensions ---
.PARAM length={width*Lind/inductivity}
.PARAM squares={length/width}
.PARAM volume = {length*width*thickness}

*--- Thermal Parameters ---
.PARAM kappa = 0.108
  * thermal conductivity (W/m K)
.PARAM heatCapacity = 4400
  * volumatric heat capacity (J/m^3 K)
.PARAM hc = 50k
  * thermal conductivity (W/m^2 K)
.PARAM Td = 174
  * Debye temperature (K)
.PARAM Nph = 1.16121545e28
  * phonon density (1/m^3)
.PARAM Ne = 4.66e29
  * electron density (1/m^3)
.PARAM Ef = 5*1.6022e-19
  * Fermi energy J()
.PARAM kb = 1.380649e-23
  * Boltzmann's constant (J)
.PARAM alpha = {(12*(pi**4)*kb*Nph)/(5*Td**3)}
.PARAM gamma = {pi**2*Ne*kb**2/(2*Ef)}
  * alpha, gamma: Debye phonon / Einstein electron heat capacity parameters

*--- Electrical/Superconducting Parameters ---
.PARAM inductivity = {1.38p*sheetRes/Tc/tanh(1.74*sqrt(Tc/Tsub-1))}
  * kinetic inductance per square (H/sq)
.PARAM  minSquares = {1/sheetRes}
  * # squares for minimum resistance
.PARAM Rnorm = {sheetRes*squares}
  * units of ohms/square
.PARAM Ic_0K = {Jc_0K*width*thickness*C}
  * critical current at T = 0 (A)
.PARAM vo ={sqrt(hc*kappa/thickness)/
+heatCapacity}
  * characteristic velocity
.PARAM rho ={sheetRes*thickness}
  * resistivity (ohm m)

*--- Unitless Parameters ---
.param gain = 1e3
* photon signal amplification factor
.param beta = 1e2
* heat dissapation amplification factor
.PARAM delta = 0.01
  * a small offset value for avoiding
  * singularity in hotspot velocity
  * If delta is made too large, cooling will be suppressed and the
  * nanowire will be more likely to latch (in simulation).
  * It's important to note that delta is only for convenience and
  * assuring convergence of the model, and does not correspond to any
  * physical parameter or process in the device

*--- Numerical helper parameters ---
.PARAM Ind_Z_max = 1e6
* Max inductor impedance (ohms), a few orders of magnitude above the largest expected
* impedance as calculated by Lind_x*2*pi*f_max where f_max = 0.31/t_rise_min
* is the maximum frequency in Hz based on the fastest dynamics of the
* circuit in seconds
* For normal nTron inductors (e.g. 200 squares of 20pH/sq), a rise time of
* 10ps gives about 1kohm max impedance, so 1e6 is acceptable

******************************
** 		 MAIN CIRCUIT 	 	**
******************************

* channel inductor
L_k drain n_hs Flux=({Lind}/(2.0*cos(0.67*
+asin(C*x/v(I_sw)))-1))*x Rser = 1e-24 Rpar = {Ind_Z_max}

* hotspot resistance, where v(r_hs) is resistance of hotspot
B_Rhs n_hs source V=IF(v(r_hs)>0, v(r_hs)*i(L_k), 0)

* hotspot resistor limiter (bounded hotspot growth)
R_limiter n_hs source {Rnorm}

* photon arrival sense resistor
R_ph gate gatereturn 1


** --- STATE VARIABLE SUBCIRCUIT --- **

* state tracker, v(N_state)= 0 if wire s/c, v(N_state)= 0 if normal
*B_state N_state 0 V=if((abs(i(L_k))>v(I_sw))|(abs(i(L_k))<v(I_r)),1,0)

*dependent source used to store state
R_state N_state 0 1k
.machine 1p
.state sc 0
.state norm 1
.rule sc norm abs(I(L_k)) - v(I_sw) > 0
.rule norm sc abs(I(L_k)) - v(I_r) < 0
.output (N_state) state
.endmachine
* v(N_state) is 0 if wire s/c, 1 if not




** --- HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT --- **

* hotspot grows/shrinks if in normal state and either hotspot < wire length or I < retrapping current
B_int r_hs 0 V={sheetres}*v(sq_hs)


** --- RC NONLINEAR THERMAL NETWORK SUBCIRCUIT --- ***

* heating sources
B_ph     0 Ttherm I=abs(i(R_ph))*{gain}
B_joule  0 Ttherm I=abs(v(r_hs)*(I(L_k)**2)*{beta})

* cooling (phonon boundary)
.param n = 1
B_therm Ttherm 0 I=(v(T)**{n} - {Tb**n}) * {Gv}


* heat capacity contributions

B_cap_ph Ttherm 0 I = ({volume}*{alpha}*v(T)**3)*ddt(v(T))
B_cap_n Ttherm 0 I = {gamma}*V(T)*v(norm_volume)*ddt(v(T))
B_cap_s1 Ttherm 0 I = ({volume}-V(norm_volume))*if(v(T) <= {0.2720*Tc},({gamma}*{Tc}*(8.5*exp(-1.44/(v(T)/{Tc}))))*ddt(v(T)),0)
B_cap_s2 Ttherm 0 I = ({volume}-V(norm_volume))*if(v(T) > {0.2720*Tc},({gamma}*{Tc}*(-0.1129-0.1827*(v(T)/{Tc})+2.775*(v(T)/{Tc})**2))*ddt(v(T)),0)
* device temperature node
V_temp T Ttherm DC {Tb}

** for checking
V_alpha alpha_node 0 {volume*alpha}
V_gamma gamma_node 0 {volume*gamma}


** --- SWITCHING CURRENT --- **
B_I_sw I_sw 0 V=if(v(T) < {Tc}, {Ic_0K}*(1-(V(T)/{Tc})**2)**(3/2), 0)

** --- RETRAPPING CURRENT --- **
B_I_r I_r 0 v=min(sqrt(2/V(psi))*v(I_sw), v(I_sw))


** --- STECKLY PARAMETER --- **
B_psi psi 0 V=({sheetRes}*(v(I_sw)/{width*C})**2)/
+({hc}*({Tc}-V(T)))

B_rnorm V_rnorm 0 V={Rnorm}


** --- HOTSPOT DYNAMICS --- **
B_n norm_volume 0 V={(width**2)*thickness}*v(sq_hs)
B_vhs sq_hs 0 V=sdt(if(v(N_state) & v(r_hs)<{Rnorm},
+{2*vo/width}*((v(psi)*(i(L_k)/v(I_sw))**2-2)
+/((sqrt(((v(psi)*(i(L_k)/v(I_sw))**2-1)+abs(v(psi)*
+(i(L_k)/v(I_sw))**2-1))/2)+{delta}))),0)
+, 0, V(N_state)<0.5)

.backanno
.ends nanowireDynTherm



